US08236826B2
Production of 2-{3-methyl-4-[5-(4-trifluoromethylbenzoyl)pyridin-2-yloxy]phenylamino}-1-(4-piperonylpiperazin-1-yl)ethanone
To a solution of 2-chloro-5-(4-trifluoromethylbenzoyl)pyridine (1.00 g, 3.5 mmol) in DMF (30 mL) were added N-(4-hydroxy-3-methylphenyl)glycine ethyl ester (0.81 g, 3.9 mmol), cesium carbonate (1.71 g, 5.2 mmol) and copper (I) iodide (200 mg, 1.05 mmol), and the resulting solution was stirred for 3.5 hours at 60° C. under an argon atmosphere. The resulting reaction solution was filtered and concentrated. To the residue was added water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1), to thereby yield 1.20 g of a yellow oil. The yellow oil was dissolved in THF (23 mL), and to the solution was added 1 M aqueous sodium hydroxide (3.9 mL, 3.9 mmol). The resulting solution was stirred for 3 hours at room temperature. This reaction solution was cooled with ice, and made to have a pH of 1 with 6 M hydrochloric acid. The resulting solution was extracted with ethyl acetate, and the ethyl acetate layer was washed with water and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, to thereby yield 1.04 g of a yellow oil. This yellow oil was dissolved in DMF (20 mL), and to the resulting solution were added 1-piperonylpiperazine (530 mg, 2.4 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (560 mg, 2.9 mmol) and 1-hydroxybenzotriazole monohydrate (390 mg, 2.6 mmol), and the resulting solution was stirred for 15 hours at room temperature. The reaction solution was concentrated under reduced pressure, and to the residue was added water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate, evaporated, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:2→ethyl acetate), to thereby yield 280 mg of a yellow oil. To this oil was added diethyl ether and left to stand. Precipitated matter, was collected by filtration, to thereby yield 220 mg of the title compound.

reactant | 2-chloro-5-(4-trifluoromethylbenzoyl)pyridine | 3.5 mmol, 1.00 g | ClC1=NC=C(C=C1)C(C1=CC=C(C=C1)C(F)(F)F)=O | C13H7ClF3NO
reactant | N-(4-hydroxy-3-methylphenyl)glycine ethyl ester | 3.9 mmol, 0.81 g | C(C)OC(CNC1=CC(=C(C=C1)O)C)=O | C11H15NO3
reactant | cesium carbonate | 5.2 mmol, 1.71 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium hydroxide | 3.9 mmol, 1 M, 3.9 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6 M | Cl | ClH
reactant | 1-piperonylpiperazine | 2.4 mmol, 530 mg | C(C1=CC=2OCOC2C=C1)N1CCNCC1 | C12H16N2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.9 mmol, 560 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 2.6 mmol, 390 mg | O.ON1N=NC2=C1C=CC=C2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 1.05 mmol, 200 mg | [Cu]I
product | 2-{3-methyl-4-[5-(4-trifluoromethylbenzoyl)pyridin-2-yloxy]phenylamino}-1-(4-piperonylpiperazin-1-yl)ethanone | CC=1C=C(C=CC1OC1=NC=C(C=C1)C(C1=CC=C(C=C1)C(F)(F)F)=O)NCC(=O)N1CCN(CC1)CC1=CC=2OCOC2C=C1 | C34H31F3N4O5
